US06747023B1
1-[(E)-4-Chlorostyrylsulfonyl]-4-[4-(pyridin-3-yl)benzoyl]piperazine hydrochloride
In the same manner as in Example A-17 except for the use, as starting materials, of 4-(3-pyridyl)benzoic acid hydrochloride and 1-[(E)-4-chlorostyrylsulfonyl]piperazine hydrochloride, a reaction was conducted, whereby the title compound was obtained.

reactant | 4-(3-pyridyl)benzoic acid hydrochloride | Cl.N1=CC(=CC=C1)C1=CC=C(C(=O)O)C=C1
reactant | 1-[(E)-4-chlorostyrylsulfonyl]piperazine hydrochloride | Cl.ClC1=CC=C(/C=C/S(=O)(=O)N2CCNCC2)C=C1
product | 1-[(E)-4-Chlorostyrylsulfonyl]-4-[4-(pyridin-3-yl)benzoyl]piperazine hydrochloride | Cl.ClC1=CC=C(/C=C/S(=O)(=O)N2CCN(CC2)C(C2=CC=C(C=C2)C=2C=NC=CC2)=O)C=C1 | InChI=1S/C24H22ClN3O3S.ClH/c25-23-9-3-19(4-10-23)11-17-32(30,31)28-15-13-27(14-16-28)24(29)21-7-5-20(6-8-21)22-2-1-12-26-18-22;/h1-12,17-18H,13-16H2;1H/b17-11+;
